US05192770
1-Methylindole (6.8 g; 52.5 mmol) was dissolved in 100 ml of ether. The solution was stirred under a nitrogen atmosphere while α-oxo-α-chloroacetyl chloride (7.6 g; 60.3 mmol) was added in approximately 0.5 ml aliquots via a syringe. The reaction mixture was stirred for an additional 30 minutes at ambient temperature and then cooled in an ice bath. The product was collected as a precipitate on a sintered funnel and dried to yield 10.8 g (48.7 mmol) of 1-methyl α-oxo-3-indoleacetyl chloride, m.p. 122°-133° C.

reactant | 1-Methylindole | 52.5 mmol, 6.8 g | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | α-oxo-α-chloroacetyl chloride | 60.3 mmol, 7.6 g | O=C(C(=O)Cl)Cl | C2Cl2O2
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-methyl α-oxo-3-indoleacetyl chloride | 48.7 mmol, 10.8 g | CN1C=C(C2=CC=CC=C12)C(C(=O)Cl)=O | C11H8ClNO2
